US07902183B2
H-6) 2-fluoro-4-(2-morpholin-4-yl-ethoxy)-phenylhydrazine
A solution of sodium nitrite (0.38 g, 5.4 mmol) in 20 mL water is slowly added dropwise at −15° C. to a solution of 2-fluoro-4-(2-morpholin-4-yl-ethoxy)aniline (1.7 g, 4.5 mmol) in 20 mL conc. hydrochloric acid. The resulting suspension is stirred for 4 h at −10° C., before a solution of tin(II)chloride dihydrate (2.6 g, 11.3 mmol) in 20 mL conc. hydrochloric acid is added dropwise. After 14 h stirring at RT the reaction mixture is adjusted to pH 10 with 10 N NaOH and combined with dichloromethane. After filtration through Celite® the filtrate is extracted with dichloromethane. The combined organic phases are dried on magnesium sulphate and evaporated down in vacuo. Yield: 1.5 g.

reactant | sodium nitrite | 5.4 mmol, 0.38 g | N(=O)[O-].[Na+]
reactant | 2-fluoro-4-(2-morpholin-4-yl-ethoxy)aniline | 4.5 mmol, 1.7 g | FC1=C(N)C=CC(=C1)OCCN1CCOCC1 | C12H17FN2O2
reactant | tin(II)chloride dihydrate | 11.3 mmol, 2.6 g | O.O.[Sn](Cl)Cl
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | hydrochloric acid | 20 mL | Cl | ClH
solvent | hydrochloric acid | 20 mL | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-fluoro-4-(2-morpholin-4-yl-ethoxy)-phenylhydrazine | FC1=C(C=CC(=C1)OCCN1CCOCC1)NN | C12H18FN3O2
